US05256673
A mixture of 37.3 g of 3-[4-(4-phenyl-1,2,3,6tetrahydropyridyl)-butyl]-5-carbamoylindole, 27.1 g of NaOH, 525 ml of water and 450 ml of diethylene glycol monoethyl ether is boiled with stirring for 16 hours. The mixture is cooled, worked up in the customary manner and acidified to give 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid, m.p. 284°-285°.

reactant | 3-[4-(4-phenyl-1,2,3,6tetrahydropyridyl)-butyl]-5-carbamoylindole | 37.3 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(N)=O | C24H27N3O
reactant | NaOH | 27.1 g | [OH-].[Na+]
reactant | diethylene glycol monoethyl ether | 450 ml | C(C)OCCOCCO | C6H14O3
solvent | water | 525 ml | O | H2O
product | 3-[4-(4-phenyl-1,2,3,6-tetrahydropyridyl)-butyl]-indole-5-carboxylic acid | C1(=CC=CC=C1)C=1CCN(CC1)CCCCC1=CNC2=CC=C(C=C12)C(=O)O | C24H26N2O2
